US05457118
3-(3,5-Dibromophenoxy)pyridine
Sodium hydride (3.24 g of a 60% dispersion in mineral oil) was added portionwise to a stirred mixture of 3-hydroxypyridine (15.4 g), 1,3,5-tribromobenzene (76.4 g), cuprous oxide (11.6 g) and collidine (400 ml). When evolution of hydrogen had ceased, the mixture was heated at 200° for 8 hours and then cooled. The cool mixture was diluted with ethyl acetate and water, basified with aqueous ammonia (SG 0.880) and then filtered. The filtered residue was washed with ethyl acetate, then the washings and organic phase of the filtrate combined, washed with saturated brine and dried (MgSO4). The ethyl acetate was evaporated under vacuum, the collidine removed by distillation under vacuum and the residue chromatographed on silica gel using ether:hexane (1:4) as eluent. The earlier fractions gave, after evaporation under vacuum, recovered tribromobenzene (42.5 g). The later fractions were evaporated under vacuum to afford the title compound as an oil (18.55 g); δ (CDCl3): 7.07(2H,s), 7.22-7.26(2H,m), 7.42 (1H,s), 8.42(1H,s), 8.47(1H,d). Found: C,40.49; H,2.17; N,4.19. C11H7Br2NO requires C,40.16; H,2.14; N,4.26%.

reactant | Sodium hydride | [H-].[Na+]
reactant | 3-hydroxypyridine | 15.4 g | OC=1C=NC=CC1 | C5H5NO
reactant | 1,3,5-tribromobenzene | 76.4 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | collidine | 400 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | hydrogen | [H][H] | H2
reactant | ammonia | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(3,5-Dibromophenoxy)pyridine | 18.55 g | BrC=1C=C(OC=2C=NC=CC2)C=C(C1)Br | C11H7Br2NO
